US05532358
B) Preparation of 3-(tert-Butoxycarbonylamino)-2-methoxy-4-methylpyridine
To a stirred solution of 1.12 g (5 mmol) of 3-(tert-butoxycarbonylamino)-2-methoxypyridine in 25 mL of dry ether containing 1.8 mL, (12 mmol) of TMEDA at -78° C. under an argon atmosphere was added 4.8 mL (12 mmol) of a 2.5M solution of nBuLi in hexanes. The mixture was then warmed to -10° C. for 2 h. Recooling to -78° C. and treatment with iodomethane (0.99 g, 7 mmol) followed by warming to room temperature for 1 h produced the desired product which was purified by quenching with water, washing the ether layer with 0.1N HCl, drying (MgSO4), concentration and flash chromatography (9:1 hexanes:EtOAc). Yield: 1.00 g (84%). Recrystallization from heptane provided further purification. m.p.: 93°-95° C.

reactant | 3-(tert-butoxycarbonylamino)-2-methoxypyridine | 5 mmol, 1.12 g | C(C)(C)(C)OC(=O)NC=1C(=NC=CC1)OC | C11H16N2O3
reactant | ether | 12 mmol, 25 mL | CCOCC | C4H10O
reactant | TMEDA | CN(C)CCN(C)C | C6H16N2
reactant | nBuLi | [Li]CCCC
reactant | iodomethane | 7 mmol, 0.99 g | IC | CH3I
product | 3-(tert-Butoxycarbonylamino)-2-methoxy-4-methylpyridine | C(C)(C)(C)OC(=O)NC=1C(=NC=CC1C)OC | C12H18N2O3
